US04179505
A mixture of 7.1 parts of 4-fluoro-3-nitrobenzoic acid, 9.1 parts of 1-propanamine and 25 parts of dimethyl sulfoxide is stirred for 3 hours at 60° C. The reaction mixture is poured onto 150 parts of water. The precipitated product is filtered off, washed with water and dried, yielding 8.8 parts of 3-nitro-4-(propylamino)benzoic acid; mp. 208° C.

reactant | 4-fluoro-3-nitrobenzoic acid | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 1-propanamine | C(CC)N | C3H9N
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-nitro-4-(propylamino)benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1NCCC | C10H12N2O4
